US07112697B1
n-Butyl 2-Methylphenyl Sulfide (entry 3, Table 3):
The general procedure was used to convert 2-iodotoluene and n-butyl sulfide to the title product. Purification by flash chromatography (hexane as the eluent) gave the analytically pure product as a clear oil (331 mg, 93% yield). 1H NMR (300 MHz, CDCl3) δ 7.17–6.97 (m, 4H; Ha, Hb, Hc, Hd), 2.80–2.78 (t, J=7.3, 2H; Hf), 2.27 (s, 3H; He), 1.61–1.51 (m, 2H; Hg,), 1.44–1.17 (m, 2H; Hh), 0.87–0.82 (t, J=7.3, 3H; methyl protons). 13C NMR (75 MHz, CDCl3) δ 137 (C1), 136.3 (C6), 129.9 (C5), 127.1 (C2), 126.2 (C3), 125.1 (C4), 32.3 (C8), 31 (C9), 22 (C10), 20.2 (C7), 13.6 (C11). Anal. Calcd. for C11H16S: C, 73.27; H, 8.94; S, 17.78; Found C, 73.23; H, 9.16, S, 17.57.

reactant | 2-iodotoluene | IC1=C(C=CC=C1)C | C7H7I
reactant | n-butyl sulfide | C(CCC)SCCCC | C8H18S
product | n-Butyl 2-Methylphenyl Sulfide | CC1=C(C=CC=C1)SCCCC | C11H16S
